US06831081B2
N-(4-Chlorobenzyl)-7-(2-morpholin-5-ylethyl)-2-(morpholin-4-ylmethyl)-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide.
A mixture of N-(4-chlorobenzyl)-2-((2-chloro-5-(morpholin-4-ylmethyl)thien-3-yl)carbonyl)-3-((2-morpholin-4-ylethyl)amino)acrylamide (Preparation 6, 4.3 g) and K2CO3 (1.6 g) in DMF (75 mL) is stirred at 100° C. for 5 h. The mixture is allowed to cool to room temperature and is concentrated in vacuo. The crude product is triturated with EtOAc and filtered to afford 1.4 g of the title compound as a yellow solid Physical characteristics. 1H NMR (300 MHz, DMSO-d6) δ 10.57, 8.71, 7.42-7.32, 4.55, 4.37, 3.74, 3.59, 3.50, 2.73, 2.44; MS (ESI+) m/z 531 (M+H)+.

reactant | N-(4-chlorobenzyl)-2-((2-chloro-5-(morpholin-4-ylmethyl)thien-3-yl)carbonyl)-3-((2-morpholin-4-ylethyl)amino)acrylamide | 4.3 g | ClC1=CC=C(CNC(C(=CNCCN2CCOCC2)C(=O)C2=C(SC(=C2)CN2CCOCC2)Cl)=O)C=C1 | C26H32Cl2N4O4S
reactant | K2CO3 | 1.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-7-(2-morpholin-5-ylethyl)-2-(morpholin-4-ylmethyl)-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 1.4 g | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)CCC2COCCN2)SC(=C3)CN3CCOCC3)=O)C=C1 | C26H31ClN4O4S
